US07196108B2
To a solution of AlCl3 (1.5 g, 11.32 mmol) in dry dichloromethane (30 mL) was added dropwise at room temperature 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-2-methyl-propan-1-one (989 mg, 4.52 mmol) in dichloromethane (15 mL) followed by bromine (0.28 mL, 5.43 mmol) and the reaction stirred for 6 hours. 1N HCl was added slowly and the layers separated. The aqueous layer was extracted twice with dichloromethane. The combined organic layers were washed successively with aq. K2CO3, water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated to give 1.44 g of 1-(7-bromo-3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-2-methyl-propan-1-one (91%). 1H NMR (300 MHz; CDCl3): δ 1.21 (d, J=6.9 Hz, 6H), 1.39 (s, 6H), 3.47 (m, 1H), 4.43 (s, 2H), 7.70 (s, 1H), 7.95 (s, 1H). e. 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-2-methyl-propan-1-one.

reactant | AlCl3 | 11.32 mmol, 1.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-2-methyl-propan-1-one | 4.52 mmol, 989 mg | CC1(COC2=C1C=C(C=C2)C(C(C)C)=O)C | C14H18O2
reactant | bromine | 5.43 mmol, 0.28 mL | BrBr | Br2
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(7-bromo-3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-2-methyl-propan-1-one | 1.44 g, 91% | BrC1=CC(=CC=2C(COC21)(C)C)C(C(C)C)=O | C14H17BrO2
